US03932658
A mixture of 10.3 g of N-[4-(β-<2-methoxy-5-chlorobenzamido>-ethyl)-benzenesulfonyl]-urea (m.p. 171° - 173°C), 300 ml of toluene, 30 ml of glycolmonomethyl ether, 1.65 g of glacial acetic acid and 2.4 g of cyclopentyl-amine was refluxed for 5 hours. Subsequently, the mixture was concentrated in vacuo and the residue was treated with alcohol. N-[4-(β-<2-methoxy-5-chlorobenzamido>-ethyl)-benzenesulfonyl] -N'-cyclopentyl-urea obtained as a raw product was separated by suction-filtration and recrystallized from methanol. Melting point 184° - 185°C.

reactant | urea | NC(=O)N | CH4N2O
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
reactant | ether | CCOCC | C4H10O
reactant | cyclopentyl-amine | 2.4 g | C1(CCCC1)N | C5H11N
solvent | acetic acid | 1.65 g | C(C)(=O)O | C2H4O2
product | N'-cyclopentyl-urea | C1(CCCC1)NC(N)=O | C6H12N2O
